US07217714B1
tert-Butyl 4-[amino(hydroxyimino)methyl]-1-piperidinecarboxylate
A mixture of tert-butyl 4-cyano-1-piperidinecarboxylate (2.69 g, 12.8 mmol), hydroxylamine hydrochloride (4.45 g, 64 mmol) and sodium carbonate (6.78 g, 64 mmol) in water (40 ml) and methanol (40 ml) was heated under reflux for 5 hours. The cooled mixture was concentrated under reduced pressure and the remaining aqueous solution extracted with ethyl acetate (3×). The combined organic extracts were washed with water and brine, dried (MgSO4), filtered and evaporated under reduced pressure to afford the title compound as a white solid, 2.60 g.

reactant | tert-butyl 4-cyano-1-piperidinecarboxylate | 12.8 mmol, 2.69 g | C(#N)C1CCN(CC1)C(=O)OC(C)(C)C | C11H18N2O2
reactant | hydroxylamine hydrochloride | 64 mmol, 4.45 g | Cl.NO
reactant | sodium carbonate | 64 mmol, 6.78 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 40 ml | O | H2O
solvent | methanol | 40 ml | CO | CH4O
product | tert-Butyl 4-[amino(hydroxyimino)methyl]-1-piperidinecarboxylate | NC(C1CCN(CC1)C(=O)OC(C)(C)C)=NO | C11H21N3O3
